US06143772
6.4. 3-[2-Phenylbenzofuran-5-yl]-5(R)-methoxymethyloxazolidin-2-one
3.1 g (11 mmol) of 5-ethoxycarbonylamino-2-phenylbenzofuran are treated with 4(S)-methoxymethyl-1,3-dioxolan-2-one under the conditions described in step 4 of Example 1. 2.5 g of product are obtained. Melting point: 178.5-179.3° C.

reactant | 5-ethoxycarbonylamino-2-phenylbenzofuran | 11 mmol, 3.1 g | C(C)OC(=O)NC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C17H15NO3
reactant | 4(S)-methoxymethyl-1,3-dioxolan-2-one | COC[C@@H]1OC(OC1)=O | C5H8O4
product | 3-[2-Phenylbenzofuran-5-yl]-5(R)-methoxymethyloxazolidin-2-one | 2.5 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=C(C=C2)N2C(O[C@H](C2)COC)=O | C19H17NO4
